US09315521B2
To a solution of (2-chloroquinolin-3-yl)methanol (0.96 g, 4.95 mmol) in anhydrous chloroform at 0° C. was added phosphorous tribromide (1.34 g, 4.95 mmol). After stirring at room temperature for 2 hours, the solvent was evaporated to provide 3-(bromomethyl)-2-chloroquinoline (1.27 g), which was used in the next step without purification.

reactant | (2-chloroquinolin-3-yl)methanol | 4.95 mmol, 0.96 g | ClC1=NC2=CC=CC=C2C=C1CO | C10H8ClNO
reactant | phosphorous tribromide | 4.95 mmol, 1.34 g | P(Br)(Br)Br | Br3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(bromomethyl)-2-chloroquinoline | 1.27 g | BrCC=1C(=NC2=CC=CC=C2C1)Cl | C10H7BrClN
